datasets/RMG-dataset.csv
rxn,Ea
[C:0](#[C:1][C:2]([C:3]([H:9])([H:10])[H:11])=[C:4]([C:5]([H:12])([H:13])[H:14])[C:6]#[C:7][H:15])[H:8].[c:16]1[c:17]([H:22])[c:18]([H:23])[c:19]([H:24])[c:20]([H:25])[c:21]1[H:26]>>[C:0](#[C:1][C:2]([C:3]([H:9])([H:10])[H:11])([C:4]([C:5]([H:12])([H:13])[H:14])[C:6]#[C:7][H:15])[c:16]1[c:17]([H:22])[c:18]([H:23])[c:19]([H:24])[c:20]([H:25])[c:21]1[H:26])[H:8],-6.9036
[C:0]([C:1]([O:2][H:7])[H:6])([H:3])([H:4])[H:5]>>[C:0]([C:1]([O:2])([H:6])[H:7])([H:3])([H:4])[H:5],129.286
[C:0](=[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([S:4][C:5]([H:13])([H:14])[H:15])[H:9])[H:8])([H:6])[H:7].[H:16]>>[C:0](=[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([S:4][H:16])[H:9])[H:8])([H:6])[H:7].[C:5]([H:13])([H:14])[H:15],18.4096
[C:0](#[C:1][C:2](=[C:3]([C:4](=[C:5]([H:11])[H:12])[H:10])[C:6](=[C:7]([H:14])[H:15])[H:13])[H:9])[H:8].[C:16](#[C:17][C:18]([C:19]([H:22])([H:23])[H:24])[H:21])[H:20]>>[C:0](#[C:1][C:2]([C:3]([C:4](=[C:5]([H:11])[H:12])[H:10])([C:6](=[C:7]([H:14])[H:15])[H:13])[C:18]([C:17]#[C:16][H:20])([C:19]([H:22])([H:23])[H:24])[H:21])[H:9])[H:8],34.1833
[C:0](=[C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([H:18])([H:19])[H:20])[H:17])([H:15])[H:16])([H:13])[H:14])=[C:7]([C:8]([H:21])([H:22])[H:23])[C:9]([H:24])([H:25])[H:26])[H:12])([H:10])[H:11]>>[C:0](=[C:1]([C:2]1[C:3]([H:13])([H:14])[C:4]([H:15])([H:16])[C:5]([C:6]([H:18])([H:19])[H:20])([H:17])[C:7]1([C:8]([H:21])([H:22])[H:23])[C:9]([H:24])([H:25])[H:26])[H:12])([H:10])[H:11],63.2621
[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([H:6])[H:7])([H:3])([H:4])[H:5].[O:11][O:12][C:13](=[O:14])[H:15]>>[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])[H:7])([H:3])([H:4])[H:5].[H:6][O:11][O:12][C:13](=[O:14])[H:15],58.19944
[C:0]([C:1]([c:2]1[c:3]([H:13])[c:4]([H:14])[c:5]([H:15])[c:6]([H:16])[c:7]1[H:17])([H:11])[H:12])([H:8])([H:9])[H:10].[S:18]=[C:19][S:20][H:21]>>[C:0]([C:1]([c:2]1[c:3]([H:13])[c:4]([H:14])[c:5]([H:15])[c:6]([H:16])[c:7]1[H:17])[H:12])([H:8])([H:9])[H:10].[H:11][C:19](=[S:18])[S:20][H:21],43.932
[C:0]([C:1]([C:2]([H:7])([H:8])[H:9])[C:3]([H:10])([H:11])[H:12])([H:4])([H:5])[H:6].[C:13]([C:14]([C:15]([H:20])([H:21])[H:22])([H:18])[H:19])([H:16])[H:17]>>[C:0]([C:1]([C:2]([H:7])([H:8])[H:9])([C:3]([H:10])([H:11])[H:12])[H:18])([H:4])([H:5])[H:6].[C:13](=[C:14]([C:15]([H:20])([H:21])[H:22])[H:19])([H:16])[H:17],0.0
[C:0]([C:1]=[O:2])([H:3])([H:4])[H:5].[H:6][H:7]>>[C:0]([C:1](=[O:2])[H:7])([H:3])([H:4])[H:5].[H:6],217.289
[C:0]([C:1](=[C:2]([H:6])[H:7])[H:5])([H:3])[H:4].[H:8][H:9]>>[C:0]([C:1](=[C:2]([H:6])[H:7])[H:5])([H:3])([H:4])[H:9].[H:8],98.7424
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([C:10]([H:31])([H:32])[H:33])([H:29])[H:30])([H:27])[H:28])([H:25])[H:26])([H:23])[H:24])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12].[C:34]([H:35])([H:36])[H:37]>>[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([C:10]([H:31])([H:32])[H:33])([H:29])[H:30])([H:27])[H:28])([H:25])[H:26])([H:23])[H:24])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:11])([H:12])[C:34]([H:35])([H:36])[H:37],0.0
[C:0](=[C:1]([C:2](=[C:3]([C:4]([C:5]1([H:16])[C:6]([H:17])=[C:7]([H:18])[C:8]([H:19])=[C:9]1[H:20])[H:15])[H:14])[H:13])[H:12])([H:10])[H:11]>>[C:0](=[C:1]([C:2](=[C:3]([C:4]([C:5]1=[C:6]([H:17])[C:7]([H:18])=[C:8]([H:19])[C:9]1([H:16])[H:20])[H:15])[H:14])[H:13])[H:12])([H:10])[H:11],76.9856
[C:0](=[C:1]([C:2]([H:7])([H:8])[H:9])[C:3](=[O:4])[H:10])([H:5])[H:6].[O:11][O:12][H:13]>>[C:0](=[C:1]([C:2]([H:7])([H:8])[H:9])[C:3]=[O:4])([H:5])[H:6].[H:10][O:11][O:12][H:13],15.41498568
[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])[H:7])[H:6])([H:4])[H:5].[S:11]([C:12]([c:13]1[c:14]([H:22])[c:15]([H:23])[c:16]([H:24])[c:17]([H:25])[c:18]1[H:26])([H:20])[H:21])[H:19]>>[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])([H:7])[H:20])[H:6])([H:4])[H:5].[S:11]([C:12]([c:13]1[c:14]([H:22])[c:15]([H:23])[c:16]([H:24])[c:17]([H:25])[c:18]1[H:26])[H:21])[H:19],41.0032
[C:0]([C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4]([H:14])([H:15])[H:16])[H:10])([H:8])[H:9])([H:5])([H:6])[H:7].[O:17][O:18][C:19](=[O:20])[H:21]>>[C:0]([C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4]([H:14])([H:15])[H:16])[H:10])[H:9])([H:5])([H:6])[H:7].[H:8][O:17][O:18][C:19](=[O:20])[H:21],74.01496
[C:0]1([H:7])([H:8])[C:1]([H:9])([H:10])[C:2]2([H:11])[C:3]([H:12])([H:13])[C:4]([H:14])([H:15])[C:5]1([H:16])[C:6]2([H:17])[H:18].[H:19]>>[C:0]1([H:7])([H:8])[C:1]([H:9])([H:10])[C:2]2[C:3]([H:12])([H:13])[C:4]([H:14])([H:15])[C:5]1([H:16])[C:6]2([H:17])[H:18].[H:11][H:19],34.7272
[C:0](=[O:1])([H:2])[H:3].[C:4]([O:5][O:6])([H:7])([H:8])[H:9]>>[C:0](=[O:1])[H:3].[H:2][O:6][O:5][C:4]([H:7])([H:8])[H:9],48.78544
[C:0]([C:1]([C:2](=[O:3])[H:12])([C:4]([C:5]([H:14])([H:15])[H:16])([O:6][O:7][H:17])[H:13])[H:11])([H:8])([H:9])[H:10]>>[C:0]([C:1]([C:2](=[O:3])[H:12])([C:4]([C:5]([H:14])([H:15])[H:16])([O:6])[H:13])[H:11])([H:8])([H:9])[H:10].[O:7][H:17],174.0544
